US07632839B2
Step 7: 3-{[Tert-butyl(diphenyl)silyl]oxy}-2-fluoropropan-1-ol
To a flask filled with THF (20 mL) was added sodium hydride (0.255 mg, 10.62 mmol) followed by the addition of 2-fluoropropanediol (1.0 g, 10.62 mmol) in THF. The reaction was stirred for 45 minutes followed by the addition of tert-butyldiphenylsilylchloride (2.92 g, 10.628 mmol) and stirred vigorously for another 45 min as the reaction gradually approaches room temperature. The reaction mixture was poured into a separatory funnel filled ⅓ of the way with ether and extracted with 15% K2CO3, washed with brine and dried over sodium sulfate. The resulting clear oil was purified by column chromatography (SiO2; 0%->30% EtOAc:Hx to provide the title compound as a clear oil. 1H NMR (500 MHz, CDCl3) δ 1.56 (s, 9H), 3.83-3.93 (m, 4H), 4.58-4.69 (d, J=52 Hz, 1H), 7.39-7.47 (m, 6H), 7.72-7.73 (m, 4H) ppm. HRMS [M+H] C19H25FO2Si calc'd 333.1681, found 333.1667.

reactant | sodium hydride | 10.62 mmol, 0.255 mg | [H-].[Na+]
reactant | 2-fluoropropanediol | 10.62 mmol, 1.0 g | FC(C(O)O)C | C3H7FO2
reactant | tert-butyldiphenylsilylchloride | 10.628 mmol, 2.92 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | ether | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-{[Tert-butyl(diphenyl)silyl]oxy}-2-fluoropropan-1-ol | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(CO)F | C19H25FO2Si
